US07851473B2
(3) 2-Bromo-5-ethyl-4-phenyl-1,3-thiazole
To a solution of 1-ethyl-2-phenylprop-2-en-1-yl thiocyanate (4.15 g, 20.2 mmol) in acetic acid (40 ml) was added a 25% hydrogen bromide/acetic acid (40 ml) solution, and the mixture was stirred at 130° C. for 2 hours. Water was poured into the reaction solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give the desired product (4.02 g, 74.2%) as an oil.

reactant | 1-ethyl-2-phenylprop-2-en-1-yl thiocyanate | 20.2 mmol, 4.15 g | C(C)C(C(=C)C1=CC=CC=C1)SC#N | C12H13NS
reactant | hydrogen bromide acetic acid | 40 ml | Br.C(C)(=O)O
reactant | Water | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-5-ethyl-4-phenyl-1,3-thiazole | 4.02 g, 74.2% | BrC=1SC(=C(N1)C1=CC=CC=C1)CC | C11H10BrNS
